US09056874B2
2-((5-Ethyl-7-methyl-3-(2,2,2-trifluoroacetyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a suspension of 2-((5-ethyl-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (200 mg, 0.382 mmol) in CH2Cl2 (10 mL) was added trifluoroacetic anhydride (162 μL, 1.145 mmol), and then the mixture was stirred at room temperature for 0.75 hr. The reaction mixture was cooled to 0° C. The solid that was generated was collected by filtration to give the title compound, without need of further purification. MS (ESI+) m/z 411.3 (M+H).

reactant | 2-((5-ethyl-7-methyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.382 mmol, 200 mg | C(C)C=1C(=C2C=CNC2=C(C1)C)CC1=NC2=C(N1)C=CC(=C2)C#N | C20H18N4
reactant | trifluoroacetic anhydride | 1.145 mmol, 162 μL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((5-Ethyl-7-methyl-3-(2,2,2-trifluoroacetyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C(=CNC2=C(C1)C)C(C(F)(F)F)=O)CC1=NC2=C(N1)C=CC(=C2)C#N | C22H17F3N4O
